US07115750B1
7-Nitro-1-tetralone (8.32 g, 0.044 mol) and concentrated hydrochloric acid (24 ml, 0.29 mol) were dissolved in methanol (100 ml), and an iron powder (7.30 g, 0.13 mol) was gradually added over 1 hour. After stirring for 1 hour, the reaction mixture was concentrated. 4N Sodium hydroxide solution and ethyl acetate were added to the residue, and extraction was conducted. The organic layer was dried, and concentrated. Tetrahydrofuran (100 ml) and triethylamine (5.05 g, 0.05 mol) was added to the residue. Further, acetyl chloride (3.92 g, 0.05 mol) was added under ice-cooling. After stirring for 30 minutes, ethyl acetate and 1N hydrochloric acid were added, and extraction was conducted. The organic layer was concentrated, and the residue was purified with silica gel column chromatography (development solvent: ethyl acetate), to give 7-acetylamino-1-tetralone (7.52 g) as a white powder.

reactant | 7-Nitro-1-tetralone | 0.044 mol, 8.32 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | hydrochloric acid | 0.29 mol, 24 ml | Cl | ClH
reactant | triethylamine | 0.05 mol, 5.05 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.05 mol, 3.92 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | iron | 0.13 mol, 7.30 g | [Fe] | Fe
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-acetylamino-1-tetralone | 7.52 g | C(C)(=O)NC1=CC=C2CCCC(C2=C1)=O | C12H13NO2
